US07851473B2
(1) 2,2,2-Trichloroethyl 1,3-benzothiazol-6-ylcarbamate
To a solution of 6-amino-1,3-benzothiazole (1.00 g, 6.66 mmol) and pyridine (0.633 ml, 7.99 mmol) in tetrahydrofuran (22 ml) was added, under ice-cooling, 2,2,2-trichloroethyl chloroformate (1.11 ml, 7.99 mmol), and the mixture was stirred at room temperature for 1.5 hour. Water was poured to the reaction mixture, and the resulting solution was extracted with ethyl acetate. The extract was washed with water and dried over anhydrous magnesium sulfate, and the solvent was distilled off under reduced pressure. Hexane was poured to the residue, and 1.45 g (66.7%) of the desired product as a solid was separated by filtration.

reactant | 6-amino-1,3-benzothiazole | 6.66 mmol, 1.00 g | NC1=CC2=C(N=CS2)C=C1 | C7H6N2S
reactant | pyridine | 7.99 mmol, 0.633 ml | N1=CC=CC=C1 | C5H5N
reactant | 2,2,2-trichloroethyl chloroformate | 7.99 mmol, 1.11 ml | ClC(=O)OCC(Cl)(Cl)Cl | C3H2Cl4O2
reactant | Water | O | H2O
solvent | tetrahydrofuran | 22 ml | O1CCCC1 | C4H8O
product | 2,2,2-Trichloroethyl 1,3-benzothiazol-6-ylcarbamate | S1C=NC2=C1C=C(C=C2)NC(OCC(Cl)(Cl)Cl)=O | C10H7Cl3N2O2S
